US08629164B2
B. Preparation of N-(2,5-dioxo-7-oxabicyclo[4.1.0]hept-3-en-3-yl)-2-hydroxyquinoline-3-carboxamide (7b)
To a flask containing N-(2,2-dimethoxy-5-oxo-7-oxabicyclo[4.1.0]hept-3-en-3-yl)-2-hydroxyquinoline-3-carboxamide (65 mg, 0.18 mmol) was added trifluoroacetic acid (15 mL) in one portion. The solution was stirred 3 hours, after which the reaction was judged complete by LC-MS. The trifluoroacetic acid was removed in vacuo and the product dried with a stream of nitrogen to afford 57 mg (100%) of the title product that contained ca. 15% of a byproduct that was suggested to be the hydrolyzed product (at both amide and epoxide positions; M+ 204). The solid was used in the next step without additional characterization or purification.

reactant | N-(2,2-dimethoxy-5-oxo-7-oxabicyclo[4.1.0]hept-3-en-3-yl)-2-hydroxyquinoline-3-carboxamide | 0.18 mmol, 65 mg | COC1(C2OC2C(C=C1NC(=O)C=1C(=NC2=CC=CC=C2C1)O)=O)OC | C18H16N2O6
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2,5-dioxo-7-oxabicyclo[4.1.0]hept-3-en-3-yl)-2-hydroxyquinoline-3-carboxamide | 57 mg, 100% | O=C1C2OC2C(C=C1NC(=O)C=1C(=NC2=CC=CC=C2C1)O)=O | C16H10N2O5
